US07977477B2
The compound was prepared in a manner analogous to 2,6-dichloro-N-[3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide, however using 4-(4-methyl-benzoylamino)-1H-pyrazole-3-carboxylic acid and 4,5-dimethylbenzene-1,2-diamine to give N-[3-(5,6-dimethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-4-methyl-benzamide (32 mg) as a white solid. (LC/MS: Rt 3.42, [M+H]+ 346.26).

reactant | 2,6-dichloro-N-[3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide | ClC1=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2)C=CC(=C3)CN3CCOCC3)C(=CC=C1)Cl | C22H20Cl2N6O2
reactant | 4-(4-methyl-benzoylamino)-1H-pyrazole-3-carboxylic acid | CC1=CC=C(C(=O)NC=2C(=NNC2)C(=O)O)C=C1 | C12H11N3O3
reactant | 4,5-dimethylbenzene-1,2-diamine | CC=1C=C(C(=CC1C)N)N | C8H12N2
product | N-[3-(5,6-dimethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-4-methyl-benzamide | 32 mg | CC1=CC2=C(NC(=N2)C2=NNC=C2NC(C2=CC=C(C=C2)C)=O)C=C1C | C20H19N5O
